US06576656B1
(1) 1-(2-Diethylaminoethyl)-3-(2-chlorophenyl)-3-hydroxy-4-chloro-6-cyanooxindole
To Pd2(dba)3CHCl3 (5.69 mg, 5 mol %) and triphenyIphosphine (5.76 mg, 20 mol %) under a nitrogen atmosphere was added anhydrous DMF (0.5 mL). The mixture was stirred at room temperature for 30 minutes to give orange/yellow mixture. To this was then added 1-(2-diethylaminoethyl)-3-hydroxy-3-(2-chlorophenyl)-4-chloro-6-iodooxindole (57.0 mg, 1.1×10−4 mol) followed by Zn(CN)2 (17.2 mg, 0.8 eq., 60%). The resulting suspension was heated to 60° C. (bath temperature) and stirred at that temperature for 3 hours. The mixture was allowed to cool and diluted with EtOAc:toluene (10 mL, 1:1). The mixture was washed with H2O (2×10 mL) and dried (anhydrous MgSO4). After filtration the solvent was removed in vacuo to give the crude title compound.

reactant | triphenyIphosphine | 5.76 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
reactant | 1-(2-diethylaminoethyl)-3-hydroxy-3-(2-chlorophenyl)-4-chloro-6-iodooxindole | 1.1×10−4 mol, 57.0 mg | C(C)N(CCN1C(C(C2=C(C=C(C=C12)I)Cl)(C1=C(C=CC=C1)Cl)O)=O)CC | C20H21Cl2IN2O2
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Zn(CN)2 | 17.2 mg, 0.8 eq. | [C-]#N.[C-]#N.[Zn+2]
product | 1-(2-Diethylaminoethyl)-3-(2-chlorophenyl)-3-hydroxy-4-chloro-6-cyanooxindole | C(C)N(CCN1C(C(C2=C(C=C(C=C12)C#N)Cl)(O)C1=C(C=CC=C1)Cl)=O)CC | C21H21Cl2N3O2
